US05015678
alpha,alpha'-Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yloxy]-p-xylene
Methyl acrylate (64.9 grams, 750 mmol) is rapidly added under a nitrogen atmosphere to a mixture of 16.9 grams (38 mmol) of alpha,alpha'-bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-p-xylene, 0.85 gram of potassium tert-butoxide and 70 ml of tetrahydrofuran. The reaction is exothermic and the temperature exceeds 40° C. for one hour. The reaction mixture is then heated at 60° C. for four hours and allowed to stand overnight at ambient temperature. The reaction mixture is diluted with ether (300 ml), washed consecutively with saturated sodium bicarbonate solution (200 ml), water (4×500 ml), and saturated sodium chloride solution (200 ml), dried over anhydrous magnesium sulfate and evaporated to an oil. The oil is stirred with methanol and a precipitate forms. The supernatant liquid is concentrated to give a solid which is purified by flash chromatography (silica gel; 9:1 hexane:ethyl acetate) to afford 4.6 grams (20% yield) of the title compound as a white solid melting at 84°-85° C.

reactant | Methyl acrylate | 750 mmol, 64.9 grams | C(C=C)(=O)OC | C4H6O2
reactant | alpha,alpha'-bis(1-hydroxy-2,2,6,6-tetramethylpiperidin-4-yloxy)-p-xylene | 38 mmol, 16.9 grams | ON1C(CC(CC1(C)C)OCC1=CC=C(C=C1)COC1CC(N(C(C1)(C)C)O)(C)C)(C)C | C26H44N2O4
reactant | potassium tert-butoxide | 0.85 gram | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ether | 300 ml | CCOCC | C4H10O
product | alpha,alpha'-Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yloxy]-p-xylene | 4.6 grams, 20% yield | COC(=O)CCON1C(CC(CC1(C)C)OCC1=CC=C(C=C1)COC1CC(N(C(C1)(C)C)OCCC(=O)OC)(C)C)(C)C | C34H56N2O8
